US05344830
Step B: N-(t-Butoxycarbonyl)-N'-(benzyloxycarbonyl)-N'-(carbamoylmethyl) ethylenediamine
To a solution of 1.25 g (7.8 mmole) of N-(t-butoxycarbonyl)ethylenediamine in 10 mL of acetonitrile was added 1.36 mL (7.8 mole) of DIEA followed by 1.44 g (7.8 mmole) of iodoacetamide at room temperature. After 90 min most of the solvent was removed in vacuo and the residue was taken up in 12 mL of CH2Cl2 and was treated with 1.36 mL (7.8 mmole) of DIEA and then 1.1 mL (7.8 mmole) of benzyl chloroformate. The resulting solution was stirred at room temperature for 2 days, and was then concentrated partly in vacuo. The residue was treated with 100 mL of ethyl acetate and 20 mL of 1M aqueous tartaric acid and the layers were separated. The organic layer was washed with 2×15 mL of water, the tartaric acid layer was extracted with 30 mL of ethyl acetate, this extract was washed with 2×10 mL of water, and the combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography on 131 g of silica gel eluting with 2.5 L of 100:4 CH2Cl2 :methanol to provide 1.5 g (55%) of an oil.

reactant | N-(t-butoxycarbonyl)ethylenediamine | 7.8 mmole, 1.25 g | C(C)(C)(C)OC(=O)NCCN | C7H16N2O2
reactant | DIEA | 7.8 mole, 1.36 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | iodoacetamide | 7.8 mmole, 1.44 g | ICC(=O)N | C2H4INO
reactant | DIEA | 7.8 mmole, 1.36 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl chloroformate | 7.8 mmole, 1.1 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-(t-Butoxycarbonyl)-N'-(benzyloxycarbonyl)-N'-(carbamoylmethyl) ethylenediamine | 1.5 g, 55% | C(C)(C)(C)OC(=O)NCCN(CC(N)=O)C(=O)OCC1=CC=CC=C1 | C17H25N3O5
